US07618985B2
Trifluoroacetic acid (1 ml) and dichloromethane (5 ml) were added to 3-(1-chloro-isoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester (370 mg) and the mixture stirred at ambient temperature for 48 h. The mixture was concentrated in vacuo then loaded onto a pre-acidified SCX column using methanol and eluted with 2M ammonia in methanol to afford 1-chloro-6-(piperidin-3-yloxy)isoquinoline (180 mg).

reactant | Trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(1-chloro-isoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester | 370 mg | C(C)(C)(C)OC(=O)N1CC(CCC1)OC=1C=C2C=CN=C(C2=CC1)Cl | C19H23ClN2O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-chloro-6-(piperidin-3-yloxy)isoquinoline | 180 mg | ClC1=NC=CC2=CC(=CC=C12)OC1CNCCC1 | C14H15ClN2O
